US07700629B2
23.3 g of pure levobupivacaine free base were dissolved in 125 mL of hot isopropanol. To this solution was added 8.8 mL of concentrated hydrochloric acid. The solution was cooled to room temperature and kept at a temperature between 4° C. to 6° C. for two hours. The mixture was vacuum filtered and the solids were stirred with 20 mL of acetone. The mixture was filtered and the solid was allowed to dry in an oven yielding 24.2 g of levobupivacaine hydrochloride ee>99.5%, MP=246-250° C., [α]D25=−12 (c=2, H2O).

reactant | levobupivacaine | 23.3 g | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
reactant | hydrochloric acid | 8.8 mL | Cl | ClH
solvent | isopropanol | 125 mL | C(C)(C)O | C3H8O
product | levobupivacaine hydrochloride | 24.2 g | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C.Cl | InChI=1S/C18H28N2O.ClH/c1-4-5-12-20-13-7-6-11-16(20)18(21)19-17-14(2)9-8-10-15(17)3;/h8-10,16H,4-7,11-13H2,1-3H3,(H,19,21);1H/t16-;/m0./s1
